US06063806
1-Acetyl-6-cyanomethyl-5,7-dimethyl-1,2,3,4-tetrahydroquinoline (2.7 g) was dissolved in ethanol (30 ml), and a solution of NaOH (4.4 g) in water (10 ml) was added, which was followed by refluxing for 10 hr under nitrogen. The solvent was evaporated under reduced pressure, and the residue was extracted with chloroform (100 ml). After washing with water, the chloroform layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The obtained 6-carbamoylmethyl-5,7-dimethyl-1,2,3,4-tetrahydroquinoline was dissolved in N,N-dimethylformamide (10 ml), and octyl bromide (1.6 g), potassium carbonate (1.2 g) and potassium iodide (166 mg) were added, which was followed by stirring at 40° C. for 10 hr in nitrogen. The reaction mixture was extracted with ethyl acetate (100 ml). After washing with water, the ethyl acetate layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform/methanol=50/1-10/1) to give 600 mg of 1-octyl-6-carbamoylmethyl-5,7-dimethyl-1,2,3,4-tetrahydroquinoline as crystals.

reactant | 1-Acetyl-6-cyanomethyl-5,7-dimethyl-1,2,3,4-tetrahydroquinoline | 2.7 g | C(C)(=O)N1CCCC2=C(C(=C(C=C12)C)CC#N)C | C15H18N2O
reactant | NaOH | 4.4 g | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 1-octyl-6-carbamoylmethyl-5,7-dimethyl-1,2,3,4-tetrahydroquinoline | 600 mg | C(CCCCCCC)N1CCCC2=C(C(=C(C=C12)C)CC(N)=O)C | C21H34N2O
